=========================================================================================================

[ZXMHC6A07T8]
*
*DIODES_INC_SPICE_MODEL
*ORIGIN=DZSL_DPG_GM
*SIMULATOR=PSPICE
*DATE=14FEB2011
*VERSION=1
*PIN_ORDER  ZXMHC6A07T8
* 1=G3         8=G4
* 2=S2S3     7=D3D4
* 3=G2         6=S1S4
* 4=G1         5=D1D2
*
.SUBCKT ZXMHC6A07T8 1 2 3 4 5 6 7 8
X1 5 4 6 P6A13
X2 5 3 2 N6A07
X3 7 1 2 N6A07
X4 7 8 6 P6A13
.ENDS ZXMHC6A07T8
*
.SUBCKT N6A07 3 4 5
M1 6 2 5 5 Nmod1 L=.6E-6 W=0.34
M2 5 2 5 6 Pmod1 L=.6E-6 W=0.24
RG 4 2 4
RIN 2 5 1E12
RD 3 6 Rmod1 0.12
RL 6 5 10E9
C1 2 5 25E-12
C2 3 2 15E-12
D1 5 3  Dmod1
.MODEL Nmod1 NMOS (LEVEL=3 TOX=85E-9 NSUB=1E17 VTO=3.35  XJ=1.6E-6
+KP=9.5E-6 RS=.035 NFS=1.2E12 KAPPA=0.06 UO=650 IS=1E-15 N=10)
.MODEL Pmod1 PMOS (LEVEL=3 TOX=80E-9 NSUB=1E16 XJ=2.3E-6
+TPG=-1 IS=1E-15 N=10)
.MODEL Dmod1 D (IS=0.5E-12 RS=.055  TRS1=1.5e-3
+CJO=71e-12  TT=24E-9 BV=66)
.MODEL Rmod1 RES (TC1=7.3e-3 TC2=1.6E-5)
.ENDS N6A07
*
.SUBCKT P6A13 3 4 5
M1 6 2 5 5 Pmod L=1.2E-6 W=0.39
M2 5 2 5 6 Nmod L=1.4E-6 W=0.195
RG 4 2 3
RIN 2 5 1E9
RD 3 6 Rdmod 0.25
RL 3 5 3E9
C1 2 5 25E-12
C2 3 4 15E-12
D1 3 5  Dbodymod
.MODEL Pmod PMOS (LEVEL=3 TOX=5.5E-8 NSUB=1e16
+VTO=-1.5 KP=6e-6 RS=0.005 NFS=12e11 KAPPA=0.01 UO=650 IS=1E-15 N=10)
.MODEL Nmod NMOS (LEVEL=3 TOX=5.5E-8 NSUB=1E16
+TPG=-1 IS=1E-15 N=10)
.MODEL Dbodymod D (IS=1e-11 RS=0.05 IKF=0.001966 XTI=-1 TRS1=1.2e-3
+CJO=3.514e-11  BV=66)
.MODEL Rdmod RES (TC1=5e-3 TC2=1e-5)
.ENDS P6A13
*
*$

=========================================================================================================

[ZXMHN6A07T8]
*
*DIODES_INC_SPICE_MODEL
*ORIGIN=DZSL_DPG_GM
*SIMULATOR=PSPICE
*DATE=15FEB2011
*VERSION=1
*PIN_ORDER         
* 1=G3         8=G4
* 2=G2         7=D3D4
* 3=S1S2     6=D2S3
* 4=G1         5=D1S4
*
.SUBCKT ZXMHN6A07T8 1 2 3 4 5 6 7 8
X1 5 4 3 N6A07
X2 6 2 3 N6A07
X3 7 1 6 N6A07
X4 7 8 5 N6A07
.ENDS ZXMHN6A07T
*
.SUBCKT N6A07 3 4 5
M1 6 2 5 5 Nmod1 L=.6E-6 W=0.34
M2 5 2 5 6 Pmod1 L=.6E-6 W=0.24
RG 4 2 4
RIN 2 5 1E12
RD 3 6 Rmod1 0.12
RL 6 5 10E9
C1 2 5 25E-12
C2 3 2 15E-12
D1 5 3  Dmod1
.MODEL Nmod1 NMOS (LEVEL=3 TOX=85E-9 NSUB=1E17 VTO=3.35  XJ=1.6E-6
+KP=9.5E-6 RS=.035 NFS=1.2E12 KAPPA=0.06 UO=650 IS=1E-15 N=10)
.MODEL Pmod1 PMOS (LEVEL=3 TOX=80E-9 NSUB=1E16 XJ=2.3E-6
+TPG=-1 IS=1E-15 N=10)
.MODEL Dmod1 D (IS=0.5E-12 RS=.055  TRS1=1.5e-3
+CJO=71e-12  TT=24E-9 BV=66)
.MODEL Rmod1 RES (TC1=7.3e-3 TC2=1.6E-5)
.ENDS N6A07
*
*$

=========================================================================================================

[ZXMHC6A07N8]
*
*DIODES_INC_SPICE_MODEL
*ORIGIN=DZSL_DPG_GM
*SIMULATOR=PSPICE
*DATE=15FEB2011
*VERSION=1
*PIN_ORDER  ZXMHC6A07T8
* 1=N1G            8=P1G
* 2=N1D/P1D     7=P1S/P2S
* 3=N1S/P2S     6=N2D/P2D
* 4=N2G            5=P2G
*
.SUBCKT ZXMHC6A07N8 1 2 3 4 5 6 7 8
X1 2 8 7 P6A13
X2 2 1 3 N6A07
X3 6 4 3 N6A07
X4 6 5 7 P6A13
.ENDS ZXMHC6A07N8
*
.SUBCKT N6A07 3 4 5
M1 6 2 5 5 Nmod1 L=.6E-6 W=0.34
M2 5 2 5 6 Pmod1 L=.6E-6 W=0.24
RG 4 2 4
RIN 2 5 1E12
RD 3 6 Rmod1 0.12
RL 6 5 10E9
C1 2 5 25E-12
C2 3 2 15E-12
D1 5 3  Dmod1
.MODEL Nmod1 NMOS (LEVEL=3 TOX=85E-9 NSUB=1E17 VTO=3.35  XJ=1.6E-6
+KP=9.5E-6 RS=.035 NFS=1.2E12 KAPPA=0.06 UO=650 IS=1E-15 N=10)
.MODEL Pmod1 PMOS (LEVEL=3 TOX=80E-9 NSUB=1E16 XJ=2.3E-6
+TPG=-1 IS=1E-15 N=10)
.MODEL Dmod1 D (IS=0.5E-12 RS=.055  TRS1=1.5e-3
+CJO=71e-12  TT=24E-9 BV=66)
.MODEL Rmod1 RES (TC1=7.3e-3 TC2=1.6E-5)
.ENDS N6A07
*
.SUBCKT P6A13 3 4 5
M1 6 2 5 5 Pmod L=1.2E-6 W=0.39
M2 5 2 5 6 Nmod L=1.4E-6 W=0.195
RG 4 2 3
RIN 2 5 1E9
RD 3 6 Rdmod 0.25
RL 3 5 3E9
C1 2 5 25E-12
C2 3 4 15E-12
D1 3 5  Dbodymod
.MODEL Pmod PMOS (LEVEL=3 TOX=5.5E-8 NSUB=1e16
+VTO=-1.5 KP=6e-6 RS=0.005 NFS=12e11 KAPPA=0.01 UO=650 IS=1E-15 N=10)
.MODEL Nmod NMOS (LEVEL=3 TOX=5.5E-8 NSUB=1E16
+TPG=-1 IS=1E-15 N=10)
.MODEL Dbodymod D (IS=1e-11 RS=0.05 IKF=0.001966 XTI=-1 TRS1=1.2e-3
+CJO=3.514e-11  BV=66)
.MODEL Rdmod RES (TC1=5e-3 TC2=1e-5)
.ENDS P6A13
*
*$

=========================================================================================================

[ZXMHC3A01T8]
*ZETEX ZXMHC3A01T8 Spice Model v1.0 Last Revised 8/7/05
    *
    .SUBCKT ZXMHC3A01T8 51 52 53 54 55 56 57 58
    *connections
    *51=pin1=G3
    *52=pin2=S2,S3
    *53=pin3=G2
    *54=pin4=G1
    *55=pin5=D1,D2
    *56=pin6=S1,S4
    *57=pin7=D3,D4
    *58=pin8=G4
    *
    L1 1 51 2.3e-9
    L2a 62 2 1.3e-9
    L2b 72 2 1.3e-9
    L2c 2 52 1e-9
    L3 3 53 2.3e-9
    L4 4 54 2.3e-9
    L5 5 55 1.5e-9
    L6a 66 6 1.3e-9
    L6b 76 6 1.3e-9
    L6c 6 56 1e-9
    L7 7 57 1.5e-9
    L8 8 58 2.3e-9
    M11 16 12 62 62 Nnmod
    M12 62 12 62 16 Npmod
    RG1 3 12 5
    RIN1 12 62 1E12
    RD1 5 16 Nrmod 0.08
    RL1 5 62 3E9
    C11 12 62 8.5E-12
    C21 5 3 3E-12
    D11 62 5  Ndmod
    M21 26 22 72 72 Nnmod
    M22 72 22 72 26 Npmod
    RG2 1 22 5
    RIN2 22 72 1E12
    RD2 7 26 Nrmod 0.08
    RL2 7 72 3E9
    C12 22 72 8.5E-12
    C22 7 1 3E-12
    D12 72 7  Ndmod
    M31 36 32 66 66 Ppmod
    M32 66 32 66 36 Pnmod
    RG3 4 32 10
    RIN3 32 66 1E9
    RD3 5 36 Prmod 0.05
    RL3 5 66 3E9
    C13 32 66 8.5E-12
    C23 5 4 5E-12
    D13 5 66  Pdmod
    M41 46 42 76 76 Ppmod
    M42 76 42 76 46 Pnmod
    RG4 8 42 10
    RIN4 42 76 1E9
    RD4 7 46 Prmod 0.05
    RL4 76 7 3E9
    C14 42 76 8.5E-12
    C24 7 8 5E-12
    D14 7 76  Pdmod
    .MODEL Nnmod NMOS (LEVEL=3 TOX=5.5E-8 NSUB=5E17 L=1.16E-6 W=0.28  VTO=2.3
    +KP=15E-5 RS=.045 NFS=2E11 KAPPA=0.06 UO=650 IS=1E-15 N=10)
    .MODEL Npmod PMOS (LEVEL=3 TOX=5.5E-8 NSUB=1.5E16 L=1.3E-6 W=0.13  
    +TPG=-1 IS=1E-15 N=10)
    .MODEL Ndmod D (IS=6E-13 RS=.025 IKF=0.1 TRS1=1.5e-3
    +CJO=85e-12  BV=33)
    .MODEL Nrmod RES (TC1=4.2e-3 TC2=1E-5)
    .MODEL Ppmod PMOS (LEVEL=3 TOX=5.5E-8 NSUB=1E17 L=1.2E-6 W=0.33 
    +VTO=-1.9 KP=2E-5 RS=.05 NFS=2E11 KAPPA=0.06 UO=650 IS=1E-15 N=10)
    .MODEL Pnmod NMOS (LEVEL=3 TOX=5.5E-8 NSUB=2E16 L=1.4E-6 W=0.19 
    +TPG=-1 IS=1E-15 N=10)
    .MODEL Pdmod D (IS=6E-13 RS=.025 IKF=0.1 TRS1=1.5e-3
    +CJO=65e-12  BV=33)
    .MODEL Prmod RES (TC1=5.5e-3 TC2=1.5E-5)
    .ENDS 
    *
    *$
    *

=========================================================================================================

[DMHC3025LSD]
*---------- DMHC3025LSD Spice Model ----------

*NMOS
.SUBCKT DMHC3025LSD_NMOS 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006 
RD 10 1 0.01437 
RS 30 3 0.001 
RG 20 2 1.84 
CGS 2 3 4.55E-010 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1 VFB 1 
CGD 13 14 4.1E-010 
R1 13 0 1 
D1 12 13 DLIM 
DDG 15 14 DCGD 
R2 12 15 1 
D2 15 0 DLIM 
DSD 3 10 DSUB 
.MODEL NMOS NMOS LEVEL = 3 VMAX = 4.62E+005 ETA = 0.0001 VTO = 2.222 
+ TOX = 6E-008 NSUB = 1E+017 KP = 35.61 KAPPA = 1E-015 U0 = 400 
.MODEL DCGD D CJO = 2.222E-010 VJ = 0.2975 M = 0.3378 
.MODEL DSUB D IS = 2.278E-010 N = 1.242 RS = 0.007361 
+ BV = 35 CJO = 4.795E-011 VJ = 0.3436 M = 0.5232 
.MODEL DLIM D IS = 0.0001 
.ENDS


*PMOS

.SUBCKT DMHC3025LSD_PMOS 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.01769 
RS 30 3 0.001 
RG 20 2 10.8 
CGS 2 3 5.834E-010 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 3.85E-010 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 4.441E-010 TOX = 6E-008 
+ NSUB = 1E+016 KP = 8.945 KAPPA = 11.93 VTO = -1.877 
.MODEL DCGD D CJO = 1.097E-010 VJ = 1 M = 0.24 
.MODEL DSUB D IS = 2.613E-010 N = 1.268 RS = 0.01102 BV = 50 
+ CJO = 1.637E-010 VJ = 0.753 M = 0.6004 
.MODEL DLIM D IS = 0.0001 
.ENDS

*Diodes DMHC3025LSD Spice Model v1.0 Last Revised 2013/4/17

=========================================================================================================

[DMHC10H170SFJ]
*---------- DMHC10H170SFJ Spice Model ----------

*NMOS
.SUBCKT DMHC10H170SFJ_NMOS 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006 
RD 10 1 0.1083 
RS 30 3 1E-008 
RG 20 2 1.37 
CGS 2 3 1.07E-009 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1 VFB 1 
CGD 13 14 3.5E-010 
R1 13 0 1 
D1 12 13 DLIM 
DDG 15 14 DCGD 
R2 12 15 1 
D2 15 0 DLIM 
DSD 3 10 DSUB 
.MODEL NMOS NMOS LEVEL = 3 VMAX = 8E+005 ETA = 0.001 VTO = 2.715 
+ TOX = 6E-008 NSUB = 1E+016 KP = 20.25 U0 = 400 KAPPA = 4.441E-010 
.MODEL DCGD D CJO = 2.221E-010 VJ = 0.1 M = 0.4408 
.MODEL DSUB D IS = 2.405E-010 N = 1.267 RS = 0.006864 BV = 116 CJO = 2.222E-010 VJ = 0.1225 M = 0.5115 
.MODEL DLIM D IS = 0.0001 
.ENDS


*PMOS
.SUBCKT DMHC10H170SFJ_P 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.1739 
RS 30 3 0.001 
RG 20 2 12.5 
CGS 2 3 1.213E-009 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 4E-010 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 4.441E-010 
+ TOX = 6E-008 NSUB = 1E+016 KP = 12.42 KAPPA = 61.41 VTO = -2.193 
.MODEL DCGD D CJO = 9.262E-011 VJ = 0.7916 M = 0.3376 
.MODEL DSUB D IS = 3.112E-009 N = 1.487 RS = 0.008305 BV = 150 
+ CJO = 1.637E-010 VJ = 0.753 M = 0.6004 
.MODEL DLIM D IS = 0.0001 
.ENDS

*Diodes DMHC10H170SFJ Spice Model v1.0 Last Revised 2016/1/5


=========================================================================================================

[DMHC6070LSD]
*---------- DMHC6070LSD Spice Model ----------

*NMOS

.SUBCKT DMHC6070LSD_N 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 NMOS L = 1E-006 W = 1E-006 
RD 10 1 0.04411 
RS 30 3 0.001 
RG 20 2 1.31 
CGS 2 3 7.136E-010 
EGD 12 0 2 1 1 
VFB 14 0 0 
FFB 2 1 VFB 1 
CGD 13 14 3.4E-010 
R1 13 0 1 
D1 12 13 DLIM 
DDG 15 14 DCGD 
R2 12 15 1 
D2 15 0 DLIM 
DSD 3 10 DSUB 
.MODEL NMOS NMOS LEVEL = 3 VMAX = 5.378E+005 ETA = 0.001 VTO = 2.463 
+ TOX = 6E-008 NSUB = 1E+016 KP = 15.76 U0 = 400 KAPPA = 10 
.MODEL DCGD D CJO = 1.389E-010 VJ = 0.8 M = 0.6 
.MODEL DSUB D IS = 2.333E-010 N = 1.31 RS = 0.01036 BV = 60 CJO = 8.659E-011 VJ = 0.706 M = 0.6 
.MODEL DLIM D IS = 0.0001 
.ENDS

*PMOS

*---------- DMHC6070LSD_P Spice Model ----------
.SUBCKT DMHC6070LSD_P 10 20 30 
*     TERMINALS:  D  G  S
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006 
RD 10 1 0.1006 
RS 30 3 0.001 
RG 20 2 13.07 
CGS 2 3 5.928E-010 
EGD 12 30 2 1 1 
VFB 14 30 0 
FFB 2 1 VFB 1 
CGD 13 14 2.5E-010 
R1 13 30 1 
D1 13 12 DLIM 
DDG 14 15 DCGD 
R2 12 15 1 
D2 30 15 DLIM 
DSD 10 3 DSUB 
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 0.001 
+ TOX = 6E-008 NSUB = 1E+016 KP = 6.038 KAPPA = 19.32 VTO = -2.241 
.MODEL DCGD D CJO = 8.101E-011 VJ = 0.8 M = 0.6 
.MODEL DSUB D IS = 4.484E-010 N = 1.368 RS = 0.02186 BV = 60 CJO = 7.164E-011 VJ = 0.8 M = 0.6 
.MODEL DLIM D IS = 0.0001 
.ENDS

*Diodes DMHC6070LSD Spice Model v1.0M Last Revised 2016/4/8

=========================================================================================================