=========================================================================================================

[ZXTNS618MC]
*
*DIODES_INC_SPICE_MODEL
*ORIGIN=DZSL_DPG_GM
*SIMULATOR=PSPICE
*DATE=27JAN2011
*VERSION=1
*PIN_ORDER         
*1=B1
*2=E1
*3=N/C
*4=A
*5=K
*6=K
*7=C1
*8=C1
*
.SUBCKT ZXTNS618MC 1 2 3 4 5 6 7 8
Q1 11 1 2 Nmod
D1 4 12 S9086
RP1 11 7 0.001
RP2 11 8 0.001
RP3 12 5 0.001
RP4 12 6 0.001
RP5 3 4 1E15
*
.MODEL Nmod NPN IS=5.611E-13 NF=1.0022 BF=480 IKF=4.6 VAF=51
+ ISE=1.73E-13 NE=1.4 NR=1.0002 BR=200 IKR=3 VAR=25 
+ ISC=7.3152E-13 NC=1.47 RB=0.032 RE=0.027 RC=0.025 
+ CJC=59E-12 MJC=0.2651 VJC=0.3051 CJE=216E-12 
+ TF=0.95E-9 TR=2.25E-9
.MODEL S9086 D IS=1E-6 EG=0.62 RS=0.13 BV=40 IBV=100u CJO=175p
+ M=0.333 N=0.823 TT=7.20n XTI=2 TRS1=4e-3 ISR=12e-6 NR=1.25
.ENDS
*
*$

=========================================================================================================

[ZXTPS717MC]
*
*DIODES_INC_SPICE_MODEL
*ORIGIN=DZSL_DPG_GM
*SIMULATOR=PSPICE
*DATE=27JAN2011
*VERSION=1
*PIN_ORDER         
*1=B1
*2=E1
*3=N/C
*4=A
*5=K
*6=K
*7=C1
*8=C1
*
.SUBCKT ZXTPS717MC 1 2 3 4 5 6 7 8
Q1 11 1 2 Pmod
D1 4 12 S9086
RP1 11 7 0.001
RP2 11 8 0.001
RP3 12 5 0.001
RP4 12 6 0.001
RP5 3 4 1E15
*
.MODEL Pmod PNP IS=5.5E-13  BF=500 IKF=3 VAF=14.93 
+ ISE=1.75E-13 NE=1.5 NR=1.00 BR=280 IKR=0.3  VAR=5.64
+ ISC=6.01E-13 NC=1.34 RB=0.3 RE=0.03 RC=0.025 CJC=116.9E-12
+ MJC=0.3456 VJC=0.4576 CJE=223.6E-12 MJE=0.4803 VJE=0.9091
+ TF=1.2E-9  TR=2E-9
.MODEL S9086 D IS=1E-6 EG=0.62 RS=0.13 BV=40 IBV=100u CJO=175p
+ M=0.333 N=0.823 TT=7.20n XTI=2 TRS1=4e-3 ISR=12e-6 NR=1.25
.ENDS
*
*$

=========================================================================================================

[ZXTPS718MC]
*
*DIODES_INC_SPICE_MODEL
*ORIGIN=DZSL_DPG_GM
*SIMULATOR=PSPICE
*DATE=27JAN2011
*VERSION=1
*PIN_ORDER         
*1=B1
*2=E1
*3=N/C
*4=A
*5=K
*6=K
*7=C1
*8=C1
*
.SUBCKT ZXTPS718MC 1 2 3 4 5 6 7 8
Q1 11 1 2 Pmod
D1 4 12 S9086
RP1 11 7 0.001
RP2 11 8 0.001
RP3 12 5 0.001
RP4 12 6 0.001
RP5 3 4 1E15
*
.MODEL Pmod PNP IS=6.8E-13  BF=480 IKF=2 VAF=23 
+ ISE=0.8E-13 NE=1.5567 NR=1.00 BR=70 IKR=0.4 
+ VAR=7 ISC=7.5E-14 NC=1.19 RB=0.085 RE=0.04
+ RC=0.045 CJC=70.02E-12 MJC=0.4685 VJC=0.7714 
+ CJE=203.6E-12 MJE=0.5029 VJE=0.9403 TF=0.71E-9 
+ TR=23.7E-9
.MODEL S9086 D IS=1E-6 EG=0.62 RS=0.13 BV=40 IBV=100u CJO=175p
+ M=0.333 N=0.823 TT=7.20n XTI=2 TRS1=4e-3 ISR=12e-6 NR=1.25
.ENDS
*
*$

=========================================================================================================

[ZXTPS720MC]
*
*DIODES_INC_SPICE_MODEL
*ORIGIN=DZSL_DPG_GM
*SIMULATOR=PSPICE
*DATE=27JAN2011
*VERSION=1
*PIN_ORDER         
*1=B1
*2=E1
*3=N/C
*4=A
*5=K
*6=K
*7=C1
*8=C1
*
.SUBCKT ZXTPS720MC 1 2 3 4 5 6 7 8
Q1 11 1 2 Pmod
D1 4 12 S9086
RP1 11 7 0.001
RP2 11 8 0.001
RP3 12 5 0.001
RP4 12 6 0.001
RP5 3 4 1E15
*
.MODEL Pmod PNP IS=6.261E-13  BF=500 IKF=1.4 VAF=28.4 
+ ISE=1.057E-13 NE=1.4923 NR=1.00 BR=42 IKR=0.65 VAR=10.21 
+ ISC=6E-14 NC=1.124 RB=0.078 RE=0.077 RC=0.04 CJC=59.54E-12 
+ MJC=0.5058 VJC=0.8427 CJE=201.4E-12 MJE=0.5244 VJE=1.021 
+ TF=0.68E-9 TR=23.7E-9 NK=0.75 XTB=1.8 TRE1=.0025 TRB1=.0025 
+ TRC1=.0025
.MODEL S9086 D IS=1E-6 EG=0.62 RS=0.13 BV=40 IBV=100u CJO=175p
+ M=0.333 N=0.823 TT=7.20n XTI=2 TRS1=4e-3 ISR=12e-6 NR=1.25
.ENDS
*
*$

=========================================================================================================